US07579449B2
1-(β-D-glucopyranos-1-yl)-4-methyl-3-[4-(2-trimethylsilyl-ethyl)-benzyl]-benzene
A mixture of 0.29 g 1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)4-methyl-3-[4-(trimethylsilylethynyl)-benzyl]-benzene and 0.25 g of 10% palladium hydroxide on charcoal in 3 ml of ethyl acetate is shaken for 24 h at ambient temperature under a hydrogen pressure of 1 atm. Then another 0.2 g of catalyst are added and the solution is shaken for a further 20 h under a hydrogen atmosphere. Then the catalyst is filtered off, the filtrate is evaporated down and the residue is chromatographed through silica gel (dichloromethane/methanol 1:0->5:1).

reactant | 1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)4-methyl-3-[4-(trimethylsilylethynyl)-benzyl]-benzene | 0.29 g | C(C1=CC=CC=C1)O[C@H]1[C@](O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)C#C[Si](C)(C)C | C53H56O6Si
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on charcoal | 0.25 g | [OH-].[OH-].[Pd+2]
product | 1-(β-D-glucopyranos-1-yl)-4-methyl-3-[4-(2-trimethylsilyl-ethyl)-benzyl]-benzene | O[C@]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)CC[Si](C)(C)C | C25H36O6Si
